US06858627B2
A mixture of 70 mg of 4-(1-hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester in 2 mL of DMSO was treated with 0.22 mL of 1.0 M sodium bis(trimethylsilyl)amide and 29 mg of crotyl bromide at room temperature. The reaction mixture was allowed to stir at room temperature overnight. The reaction was worked up by adding water and extracted with EtOAc three times. The organic layers were combined, washed sequentially with saturated aqueous sodium bicarbonate solution, water, and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to yield 58 mg of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester as a solid.

reactant | 4-(1-hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C | C25H31NO4
reactant | sodium bis(trimethylsilyl)amide | 1.0 M, 0.22 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | crotyl bromide | 29 mg | C(C=CC)Br | C4H7Br
reactant | water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 58 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)OC\C=C\C)(C)C | C29H37NO4
